US08536211B2
At room temperature, 10 g of benzoyl chloride (71 mmol) were admixed with 3.7 g (92 mmol) of methyl isocyanide. The mixture was then heated at 60° C. for 3 hours. The mixture was admixed with 25 ml of acetonitrile and cooled to 0° C. This reaction mixture was added to 4.6 g of sodium azide (71 mmol) in 1.1 g (14 mmol) of pyridine in 25 ml of acetonitrile at 0° C. The mixture was then heated to 60° C. and stirred at this temperature for 1 hour. At room temperature, 100 ml of water and 100 ml of ethyl acetate were added to the mixture. The organic phase was separated off and the aqueous phase was extracted with 100 ml of ethyl acetate. The combined organic phases were dried over magnesium sulphate and the solvent was removed in vacuo. The crude product was recrystallized from 20 ml of isopropanol, giving 8.83 g of 1-methyl-5-benzoyltetrazole (purity 99.6%).

reactant | benzoyl chloride | 71 mmol, 10 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | methyl isocyanide | 92 mmol, 3.7 g | C[N+]#[C-] | C2H3N
reactant | sodium azide | 71 mmol, 4.6 g | [N-]=[N+]=[N-].[Na+]
reactant | pyridine | 14 mmol, 1.1 g | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
product | 1-methyl-5-benzoyltetrazole | 8.83 g | CN1N=NN=C1C(C1=CC=CC=C1)=O | C9H8N4O
